US04018794
To a solution of cinnamic acid (3.1 g) in acetonitrile (200 ml), moist 2-benzoyl-5-carboxy-3-nitrobenzenediazonium chloride (corresponding to about 8 g dry material) is added. To the vigorously stirred suspension, a solution of sodium acetate trihydrate (9.4 g) in water (160 ml) is added, followed immediately by a solution of cupric chloride dihydrate (1 g) in water (10 ml). After stirring at room temperature for a further 2 hours, the vigorous nitrogen-evolution has subsided and the mixture is diluted with water (180 ml) followed by diethyl ether (130 ml). The mixture is filtered, and the organic layer is separated. The aqueous layer is extracted with five portions of diethyl ether, and the combined ether extracts are washed with water and evaporated in vacuo. The residue is crystallized by trituration with aqueous ethanol (50-100 ml). The crude 4-benzoyl-5-nitro-3-styrylbenzoic acid obtained is collected by filtration, washed with aqueous ethanol and dried. The crude acid is dissolved in hot 1 N sodium hydrogen carbonate, and after cooling, the precipitated sodium 4-benzoyl-5-nitro-3-styrylbenzoate is collected by filtration and washed with a small amount of icecold water. After drying, the salt is dissolved in hot water (100 ml) and the solution is clairied by filtration hot in the presence of decolorizing carbon. 4-Benzoyl-5-nitro-3-styrylbenzoic acid is precipitated by acidification with acetic acid. It is collected by filtration and is, after drying, obtained with a melting point of 288°-289° C. (dec.).

reactant | cinnamic acid | 3.1 g | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | 2-benzoyl-5-carboxy-3-nitrobenzenediazonium chloride | about 8 g | [Cl-].C(C1=CC=CC=C1)(=O)C1=C(C=C(C=C1[N+](=O)[O-])C(=O)O)[N+]#N
reactant | sodium acetate trihydrate | 9.4 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | diethyl ether | 130 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | water | 160 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | water | 180 ml | O | H2O
product | 4-benzoyl-5-nitro-3-styrylbenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])C=CC1=CC=CC=C1 | C22H15NO5
